US07723330B2
Step C: Preparation of 3-(4-(2-fluoro-4-(1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridazine-5-carboxamido)phenoxy)-1H-pyrazolo[3,4-b]pyridin-3-ylamino)cyclohexyl 2,2,2-trifluoroacetate:
A solution of N-(4-(1-(4-methoxybenzyl)-3-(3-hydroxycyclohexylamino)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide (40 mg, 0.058 mmol) in TFA (1 mL) was heated to 50° C. for 1 hour. Excess TFA was evaporated and the residue was dissolved in EtOAc. The organic layer was then washed with saturated aqueous NaHCO3, brine, dried with Na2SO4, filtered and concentrated to afford the product (30 mg, 78% yield) as a yellow solid. LRMS (APCI pos) m/e 670.2 (M+H). 1H NMR (DMSO-d6, 400 MHz): δ 12.20 (d, 1H), 11.70 (s, 1H), 8.38 (d, 1H), 8.26 (d, 1H), 8.12 (dd, 1H), 8.02 (dd, 1H), 7.66-7.70 (m, 2H), 7.56-7.62 (m, 1H), 7.46-7.52 (m, 1H), 7.38-7.44 (m, 2H), 6.02 (d, 2H), 5.20-5.40 (m, 1H), 3.60-3.80 (m, 1H), 2.20-2.30 (m, 1H), 2.00-2.10 (m, 2H), 1.80-1.90 (m, 2H), 1.60-1.80 (m, 2H), 1.30-1.45 (m, 1H).

reactant | N-(4-(1-(4-methoxybenzyl)-3-(3-hydroxycyclohexylamino)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 0.058 mmol, 40 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C=3C(N(N=CC3)C3=CC=C(C=C3)F)=O)F)NC3CC(CCC3)O)C=C1 | C37H33F2N7O5
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-(4-(2-fluoro-4-(1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridazine-5-carboxamido)phenoxy)-1H-pyrazolo[3,4-b]pyridin-3-ylamino)cyclohexyl 2,2,2-trifluoroacetate | 30 mg, 78% yield | FC(C(=O)OC1CC(CCC1)NC1=NNC2=NC=CC(=C21)OC2=C(C=C(C=C2)NC(=O)C2=CC=NN(C2=O)C2=CC=C(C=C2)F)F)(F)F | C31H24F5N7O5
